US08445510B2
2-Chloro-3-fluoro-6-methoxybenzaldehyde
To a solution of 3-chloro-4-fluoroanisole (28.5 g, 178 mmol) in t-butyl methyl ether (200 mL, dried over anhydrous MgSO4) at −78° C. was added 2.5 M n-butyl lithium in hexanes (107 mL, 267.5 mmol). After 3 h, methyl formate (18.76 mL) was added drop-wise while keeping the temperature below −60° C. The reaction mixture was quenched with sat. aq. ammonium chloride (250 mL) after 45 minutes and the organic layer was separated. The aq. layer was extracted with ethyl acetate (2×100 mL) and the combined organic layer was washed with water (200 mL) followed by brine, dried (Na2SO4) and concentrated to give a residue which on trituration with hexanes gave solids. The solids were filtered, taken again in hexanes and heated over steam bath. It was cooled, the light yellow desired product filtered and air dried to give the title compound. 1H NMR (400 MHz, CDCl3): δ=10.48 (d, J=0.8 Hz, 1H), 7.31 (dd, J=9.4, 7.8 Hz, 1H), 6.88 (dd, J=7.8, 3.8 Hz, 1H), 3.92 (s, 3H).

reactant | 3-chloro-4-fluoroanisole | 178 mmol, 28.5 g | ClC=1C=C(C=CC1F)OC | C7H6ClFO
reactant | n-butyl lithium | 2.5 M | C(CCC)[Li]
reactant | methyl formate | 18.76 mL | C(=O)OC | C2H4O2
solvent | t-butyl methyl ether | 200 mL | COC(C)(C)C | C5H12O
product | 2-Chloro-3-fluoro-6-methoxybenzaldehyde | ClC1=C(C=O)C(=CC=C1F)OC | C8H6ClFO2
